US04732998
(4-Hydroxyphenoxymethylene)-bisphosphonic acid
Tetraethyl (4-methoxyphenoxymethylene)-bisphosphonate (2 g) and concentrated hydrochloric acid (20 ml) were refluxed overnight. Evaporation to dryness in vacuo gave the title compound as an oil which crystallized.

reactant | Tetraethyl (4-methoxyphenoxymethylene)-bisphosphonate | 2 g | COC1=CC=C(OC(P(OCC)(OCC)=O)P(OCC)(OCC)=O)C=C1 | C16H28O8P2
solvent | hydrochloric acid | 20 ml | Cl | ClH
product | (4-Hydroxyphenoxymethylene)-bisphosphonic acid | OC1=CC=C(OC(P(O)(O)=O)P(O)(O)=O)C=C1 | C7H10O8P2
